US07910612B2
950 mg 2-(4-Methoxy-phenyl)-4-phenoxymethyl-oxazole were dissolved in 9 ml dichloromethane. At −20° C. 0.90 ml chlorosulfonic acid were added dropwise. The cooling bath was removed and the reaction mixture stirred at room temperature for two hours. The reaction mixture was cooled to 0° C., then 20 ml ice water were added and the reaction mixture extracted five times with portions of 50 ml dichloromethane. The combined organic layers were washed with water and then dried over MgSO4. The solvent was then removed in vacuo to obtain 580 mg 4-[2-(4-Methoxy-phenyl)-oxazol-4-ylmethoxy]-benzenesulfonyl chloride.

reactant | 2-(4-Methoxy-phenyl)-4-phenoxymethyl-oxazole | 950 mg | COC1=CC=C(C=C1)C=1OC=C(N1)COC1=CC=CC=C1 | C17H15NO3
reactant | chlorosulfonic acid | 0.90 ml | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
product | 4-[2-(4-Methoxy-phenyl)-oxazol-4-ylmethoxy]-benzenesulfonyl chloride | 580 mg | COC1=CC=C(C=C1)C=1OC=C(N1)COC1=CC=C(C=C1)S(=O)(=O)Cl | C17H14ClNO5S
